US06444668B1
4-Amino-3′-chloro-biphenyl-3-carbonitrile
Prepared from 2-amino-5-bromobenzonitrile and 3-chlorophenyl boronic acid according to procedure A. Off-white solid: mp 118-119° C.; 1H-NMR (DMSO-d6) δ7.80 (d, 1H, J=2.3 Hz), 7.65-7.72 (m, 2H), 7.57 (d, 1H, J=8.0 Hz), 7.42 (t, 1H, J=7.9 Hz), 7.31 (m, 1H), 6.87 (d, 1H, J=8.7 Hz), 6.29 (br, 2H); Anal. Calc. For C13H9ClN2: C, 68.28, H, 3.97, N, 12.25. Found: C, 67.68, H, 4.06, N, 11.89.

reactant | 2-amino-5-bromobenzonitrile | NC1=C(C#N)C=C(C=C1)Br | C7H5BrN2
reactant | 3-chlorophenyl boronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 4-Amino-3′-chloro-biphenyl-3-carbonitrile | NC1=C(C=C(C=C1)C1=CC(=CC=C1)Cl)C#N | C13H9ClN2
